### PR TITLE
[Merged by Bors] - feat: Real Exponential Distribution

### PR DESCRIPTION
**Pull request by ClausenCl**
Introduction of the real-valued exponential PDF and CDF

Co-authored-by: Patrick Massot <patrickmassot@free.fr>

---

First PR
 there might still be a few things wrong. Thank you for your help and work!

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by RemyDegenne** [comment]
Thanks for the PR!
You should add labels to the PR: awaiting-review if you want someone to look at it, WIP if you are still refining it. Also please add the label t-measure-probability to help sorting the PR for review.
Please also change the title of the PR to follow our conventions: https://leanprover-community.github.io/contribute/commit.html

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 1]
```diff
@@ -0,0 +1,287 @@
...
+* `ExpCdf_eq`: Proof that the `exponentialCdfReal` given by the Definition equals the known
+  function given as `r x ↦ 1 - (Real.exp (-(r * ↑x))` for `0 ≤ x` or `0` else.
+-/
+
+open scoped ENNReal NNReal Real
+
+open MeasureTheory Real Set Filter Topology
+
+@[simp]
+lemma comp_of_ge : {x : ℝ | x ≥ 0}ᶜ =  {x | x < 0} := by
```
Comment (eric-wieser) [inline Mathlib/Probability/Distributions/Exponential.lean:34]: In mathlib we tend to avoid `≥` to keep things predictable:
```suggestion
lemma compl_setOf_le (y : ℝ) : {x : ℝ | y ≤ x}ᶜ =  {x | x < y} := by
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 2]
```diff
@@ -0,0 +1,283 @@
...
+  function given as `r x ↦ 1 - (Real.exp (-(r * ↑x))` for `0 ≤ x` or `0` else.
+-/
+
+open scoped ENNReal NNReal Real
+
+open MeasureTheory Real Set Filter Topology
+
+@[simp]
+lemma compl_setOf_le (y : ℝ) : {x : ℝ | y ≤ x}ᶜ =  {x | x < y} := by
+  ext x;
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:35]: A `;` at the end of a line does not do anything. You should remove them everywhere.
```suggestion
  ext x
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 3]
```diff
@@ -0,0 +1,283 @@
...
+  constructor <;>
+  simp only [ge_iff_le, mem_compl_iff, mem_setOf_eq, not_le, imp_self]
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:37]: After `<;>`, either put the next tactic on the same line or indent.
```suggestion
  constructor <;>
    simp only [ge_iff_le, mem_compl_iff, mem_setOf_eq, not_le, imp_self]
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 4]
```diff
@@ -0,0 +1,283 @@
...
+* `ExpCdf_eq`: Proof that the `exponentialCdfReal` given by the Definition equals the known
+  function given as `r x ↦ 1 - (Real.exp (-(r * ↑x))` for `0 ≤ x` or `0` else.
+-/
+
+open scoped ENNReal NNReal Real
+
+open MeasureTheory Real Set Filter Topology
+
+@[simp]
+lemma compl_setOf_le (y : ℝ) : {x : ℝ | y ≤ x}ᶜ =  {x | x < y} := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:34]: Please review the spaces in the file. For example, here you had two spaces:
```suggestion
lemma compl_setOf_le (y : ℝ) : {x : ℝ | y ≤ x}ᶜ = {x | x < y} := by
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 5]
```diff
@@ -0,0 +1,283 @@
...
+  ext x;
+  constructor <;>
+  simp only [ge_iff_le, mem_compl_iff, mem_setOf_eq, not_le, imp_self]
+
+  /-- A Lebesgue Integral from -∞ to y can be expressed
+    as the sum of one from -∞ to 0 and 0 to x -/
+lemma lintegral_split_bounded {y z : ℝ}(f : ℝ → ENNReal) ( hzy : z ≤ y) :
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:41]: Spaces:
```suggestion
lemma lintegral_split_bounded {y z : ℝ} (f : ℝ → ENNReal) (hzy : z ≤ y) :
```
I will not mark them in the whole file yet because there are many. Please check that!

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 6]
```diff
@@ -0,0 +1,283 @@
...
+    ∫⁻ (x : ℝ) in Iic y, f x  =  (∫⁻ (x : ℝ) in Iio z, f x) +  ∫⁻ (x : ℝ) in Icc z y, f x := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:42]: Most often, you don't need to specify the type of the variable over which you integrate.
```suggestion
    ∫⁻ x in Iic y, f x  = ∫⁻ x in Iio z, f x + ∫⁻ x in Icc z y, f x := by
```
Also I think these parentheses are not needed.

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 7]
```diff
@@ -0,0 +1,283 @@
...
+  rw [(Iio_union_Icc_eq_Iic  hzy).symm, lintegral_union measurableSet_Icc]
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:43]: We use arrows instead of symm inside of `rw`:
```suggestion
  rw [← Iio_union_Icc_eq_Iic hzy, lintegral_union measurableSet_Icc]
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 8]
```diff
@@ -0,0 +1,283 @@
...
+instance instIsProbabilityMeasureExponential (r : ℝ) [Fact (0 < r)] :
+    IsProbabilityMeasure (expMeasure r) where
+  measure_univ := by unfold expMeasure; simp [lintegral_exponentialPdf_eq_one r Fact.out]
+
+section ExponentialCdf
+
+/-- CDF of the exponential Distribution -/
+noncomputable
+def exponentialCdfReal (r : ℝ) : StieltjesFunction :=
+    ProbabilityTheory.cdf (expMeasure r)
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:205]: You are in the namespace `ProbabilityTheory`, so you can shorten all the names of that namespace:
```suggestion
    cdf (expMeasure r)
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 9]
```diff
@@ -0,0 +1,283 @@
...
+    rw [Set.disjoint_iff]; rintro x ⟨hxge : x ≥ _, hxlt : x < _⟩; linarith
+
+namespace ProbabilityTheory
+
+section ExponentialPdf
+
+/-- Define the PDF of the exponential distribution depending on its rate-/
+noncomputable
+def exponentialPdfReal (r x : ℝ) : ℝ :=
+if 0 ≤ x then r*exp (-(r*x)) else 0
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:68]:
```suggestion
  if 0 ≤ x then r*exp (-(r*x)) else 0
```

**Review by RemyDegenne — COMMENTED** [review]
Thanks again for the PR! Here is a first round of comments about style and formatting. It's completely normal for a first PR to get many of those.

I'll do a second pass over this PR after that to review the content.

File: Mathlib/Probability/Distributions/Exponential.lean (hunk 6 above)
Comment (ClausenCl) [reply Mathlib/Probability/Distributions/Exponential.lean]: Did that, but I think the parantheses are needed if the integral is written without its measure, at least that gives me an error

**Comment by ClausenCl** [comment]
Dear Rémy, 
thank you for all your help! I was not sure how to commit while quoting your suggestions, giving that most of them were an example of a mistake that I made a lot of in my file, so I tried to do some smaller commits regarding one or two of your suggestions each and also removing some more useless parantheses. 
I hope that these problems are now resolved and look forward to working on the functionality of my code!

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 10]
```diff
@@ -0,0 +1,281 @@
...
+namespace ProbabilityTheory
+
+section ExponentialPdf
+
+/-- Define the PDF of the exponential distribution depending on its rate-/
+noncomputable
+def exponentialPdfReal (r x : ℝ) : ℝ :=
+  if 0 ≤ x then r*exp (-(r*x)) else 0
+
+local notation "E" => exponentialPdfReal
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:69]: I don't think that this notation is useful: it is not used much and it obfuscates the statements. I'd rather have `exponentialPdfReal` in full.
```suggestion
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 11]
```diff
@@ -0,0 +1,281 @@
...
+    ∫⁻ x, exponentialPdf r x = 1 := by
+  rw [lintegral_split (exponentialPdf r) 0, ← ENNReal.toReal_eq_one_iff]
+  have leftSide : ∫⁻ x in {x | x < 0}, exponentialPdf r x = 0 := by
+    simp only [exponentialPdf_eq]
+    rw [set_lintegral_congr_fun (isOpen_gt' 0).measurableSet if_eval_pos, lintegral_zero]
+  have rightSide : ∫⁻ x in {x | x ≥ 0}, exponentialPdf r x
+      = ∫⁻ x in {x | x ≥ 0}, ENNReal.ofReal (r * rexp (-(r * x))) := by
+    simp only [exponentialPdf_eq]
+    exact set_lintegral_congr_fun isClosed_Ici.measurableSet if_eval_neg
+  rw [leftSide]; simp only [ge_iff_le, add_zero]
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:162]: Please write one tactic per line. Also you can combine those two:
```suggestion
  simp only [leftSide, add_zero]
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 12]
```diff
@@ -0,0 +1,281 @@
...
+  replace hx : ¬ 0 ≤ x := by exact not_le.mpr hx
+  simp [hx]
+
+lemma if_eval_neg {r : ℝ} : ∀ᵐ x : ℝ ∂ volume, (x ∈ {x|x ≥ 0} →
+    ENNReal.ofReal (if (x ≥ 0) then (r * rexp (-(r * x))) else 0) =
+    ENNReal.ofReal (r * rexp (-(r * x)))) := by
+  apply ae_of_all
+  intro x hx; split_ifs with h; simp only [ge_iff_le] at h
+  · rfl
+  · contrapose h; simp only [ge_iff_le, not_le, not_lt]; exact hx
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:140]: `contrapose!` will simplify the negations. Then, `assumption` is able to close the goal.
```suggestion
  · contrapose! h; assumption
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 13]
```diff
@@ -0,0 +1,281 @@
...
+
+lemma antiDeriv_tendsto_zero {r : ℝ} (hr : 0 < r) :
+    Tendsto (fun x ↦ -1/r * exp (-(r * x))) atTop (𝓝 0) := by
+  rw [← mul_zero (-1/r)]
+  apply Tendsto.mul
+  exact tendsto_const_nhds
+  apply tendsto_exp_neg_atTop_nhds_0.comp
+  exact (tendsto_const_mul_atTop_of_pos hr).2 tendsto_id
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:148]:
```suggestion
  · exact tendsto_const_nhds
  · apply tendsto_exp_neg_atTop_nhds_0.comp
    exact (tendsto_const_mul_atTop_of_pos hr).2 tendsto_id
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 14]
```diff
@@ -0,0 +1,281 @@
...
+    IntegrableOn (fun x ↦ rexp (-(b * x))) (Ioc 0 x) := by
+  simp only [neg_mul_eq_neg_mul]
+  exact (exp_neg_integrableOn_Ioi _ hb).mono_set Ioc_subset_Ioi_self
+
+lemma if_eval_pos {r : ℝ} : ∀ᵐ x : ℝ ∂ volume , x < 0 →
+    ENNReal.ofReal (if x ≥ 0 then r * rexp (-(r * x)) else 0) = 0 := by
+  apply ae_of_all
+  intro x hx
+  replace hx : ¬ 0 ≤ x := by exact not_le.mpr hx
+  simp [hx]
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:132]: Several things here:
- all lemmas in mathlib use `≤` instead of `≥` so it's better to use `0 ≤ x`
- the proof can be made very simple
- the name is not specific enough: this is not about any `if`, it's about the particular one in `exponentialPdf`
- this should probably be rewritten as a lemma about `exponentialPdf`
```suggestion
    ENNReal.ofReal (if 0 ≤ x then r * rexp (-(r * x)) else 0) = 0 :=
  ae_of_all _ (fun x hx ↦ by simp [not_le.mpr hx])
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 15]
```diff
@@ -0,0 +1,281 @@
...
+      = ∫⁻ x in {x | x ≥ 0}, ENNReal.ofReal (r * rexp (-(r * x))) := by
+    simp only [exponentialPdf_eq]
+    exact set_lintegral_congr_fun isClosed_Ici.measurableSet if_eval_neg
+  rw [leftSide]; simp only [ge_iff_le, add_zero]
+  rw [rightSide, ENNReal.toReal_eq_one_iff, ←ENNReal.toReal_eq_one_iff]
+  have hf : 0 ≤ᵐ[(restrictₗ {x : ℝ | x ≥ 0}) ℙ] (fun x ↦ r * (rexp (-(r * x)))) := by
+    apply ae_of_all
+    intro a
+    positivity
+  rw [← restrictₗ_apply, ← integral_eq_lintegral_of_nonneg_ae hf]
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:168]: `restrictₗ` is not the standard way to talk about restriction of a measure (it's the restriction as a linear map). use `restrict`.
```suggestion
  have hf : 0 ≤ᵐ[volume.restrict {x : ℝ | x ≥ 0}] (fun x ↦ r * (rexp (-(r * x)))) := by
    apply ae_of_all
    intro a
    positivity
  rw [← integral_eq_lintegral_of_nonneg_ae hf]
```
Also, this could all be simplified to `rw [← integral_eq_lintegral_of_nonneg_ae (ae_of_all _ (fun _ ↦ by positivity))]`, without the `have`. But you don't have to follow that suggestion if you prefer the `have` statement.

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 16]
```diff
@@ -0,0 +1,281 @@
...
+
+/-- The Pdf of the exponential Distribution integrates to 1-/
+@[simp]
+lemma lintegral_exponentialPdf_eq_one (r : ℝ) (hr : 0 < r) :
+    ∫⁻ x, exponentialPdf r x = 1 :=
+  lintegral_exponentialPdfReal_eq_one r hr
+
+end ExponentialPdf
+
+local notation "E" => exponentialPdfReal
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:186]: Let's remove that notation as well. It is only used once. I'll add that having the same notation for two different things in the same file is not great for readability!
```suggestion
```

**Review by RemyDegenne — COMMENTED** [review]
Second round of comments! This time more about the code, but there are still style comments.

Github hides some of the comments because there are many: click on the button that reads "9 hidden conversations" to see them.

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 17]
```diff
@@ -0,0 +1,251 @@
...
+* `ExpCdf_eq`: Proof that the `exponentialCdfReal` given by the Definition equals the known
+  function given as `r x ↦ 1 - (Real.exp (-(r * ↑x))` for `0 ≤ x` or `0` else.
+-/
+
+open scoped ENNReal NNReal Real
+
+open MeasureTheory Real Set Filter Topology
+
+  /-- A Lebesgue Integral from -∞ to y can be expressed as the sum of one from -∞ to 0 and 0 to x -/
+lemma lintegral_split_bounded {y z : ℝ} (f : ℝ → ENNReal) (hzy : z ≤ y) :
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:34]: Please use the notation `ℝ≥0∞` to denote `ENNReal` (everywhere in the file)
```suggestion
lemma lintegral_split_bounded {y z : ℝ} (f : ℝ → ℝ≥0∞) (hzy : z ≤ y) :
```

Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:34]: That name should be more specific. What about `lintegral_Iic_eq_lintegral_Iio_add_Icc`?

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 18]
```diff
@@ -0,0 +1,251 @@
...
+    ∫⁻ x in Iic y, f x = (∫⁻ x in Iio z, f x) + ∫⁻ x in Icc z y, f x := by
+  rw [← Iio_union_Icc_eq_Iic hzy, lintegral_union measurableSet_Icc]
+  rw [Set.disjoint_iff]
+  rintro x ⟨h1 : x < _, h2, _⟩
+  linarith
+
+lemma lintegral_split (f : ℝ → ENNReal) (c : ℝ) :
+    ∫⁻ x, f x = (∫⁻ x in {x | x ≥ c}, f x) + ∫⁻ x in {x | x < c}, f x := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:42]: Why not use the intervals `Ixx` here as well?
```suggestion
lemma lintegral_eq_lintegral_Ici_add_Iio (f : ℝ → ℝ≥0∞) (c : ℝ) :
    ∫⁻ x, f x = (∫⁻ x in Ici c, f x) + ∫⁻ x in Iio c, f x := by
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 19]
```diff
@@ -0,0 +1,251 @@
...
+  intro x
+  split_ifs <;> positivity
+
+/-- A negative exponential function is integrable on Intervals in R≥0 -/
+lemma exp_neg_integrableOn_Ioc {b x : ℝ} (hb : 0 < b) :
+    IntegrableOn (fun x ↦ rexp (-(b * x))) (Ioc 0 x) := by
+  simp only [neg_mul_eq_neg_mul]
+  exact (exp_neg_integrableOn_Ioi _ hb).mono_set Ioc_subset_Ioi_self
+
+lemma exponentialPdf_eval_pos {r : ℝ} : ∀ᵐ x : ℝ ∂ volume , x < 0 →
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:115]: Our usual spacing is this:
```suggestion
lemma exponentialPdf_eval_pos {r : ℝ} : ∀ᵐ x : ℝ ∂volume, x < 0 →
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 20]
```diff
@@ -0,0 +1,251 @@
...
+
+/-- The PDF of the exponential Distribution on the extended real Numbers-/
+noncomputable
+def exponentialPdf (r x : ℝ) : ℝ≥0∞ :=
+  ENNReal.ofReal (exponentialPdfReal r x)
+
+lemma exponentialPdf_eq (r x : ℝ) :
+    exponentialPdf r x = ENNReal.ofReal (if 0 ≤ x then r * exp (-(r * x)) else 0) := rfl
+
+lemma antiDeriv_expDeriv_pos' {r x : ℝ} (hr : 0 < r) :
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:72]: I don't understand how that name relates to the statement. I would expect something like `hasDerivAt_...`

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 21]
```diff
@@ -0,0 +1,251 @@
...
+    HasDerivAt (fun a ↦ -1/r * exp (-(r * a))) (exp (-(r * x))) x := by
+  convert (((hasDerivAt_id x).const_mul (-r)).exp.const_mul (-1/r)) using 1 <;> field_simp
+
+/-- the Lebesgue-Integral of the exponential PDF over nonpositive Reals equals 0-/
+lemma lintegral_nonpos {x r : ℝ} (hx : x ≤ 0) :
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:77]: This name is way to generic: it's not about any Lebesgue integral. Also when a part of the name refers to a hypothesis (like `nonpos` here), we prefix it with `of`:
```suggestion
lemma lintegral_exponentialPdf_of_nonpos {x r : ℝ} (hx : x ≤ 0) :
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 22]
```diff
@@ -0,0 +1,251 @@
...
+
+/-- the exponential Pdf is positive for all positive reals-/
+lemma exponentialPdfReal_pos {x r : ℝ} {hr : 0 < r} (hx : 0 < x) :
+    0 < exponentialPdfReal r x := by
+  simp only [exponentialPdfReal, if_pos hx.le]
+  positivity
+
+/-- The exponential Pdf is nonnegative-/
+lemma exponentialPdfReal_nonneg {r : ℝ} (hr : 0 < r) :
+    ∀ x : ℝ, 0 ≤ exponentialPdfReal r x := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:104]: Hypotheses/arguments before the `:` instead of in a \forall
```suggestion
lemma exponentialPdfReal_nonneg {r : ℝ} (hr : 0 < r) (x : ℝ) :
    0 ≤ exponentialPdfReal r x := by
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 23]
```diff
@@ -0,0 +1,251 @@
...
+  exact (exp_neg_integrableOn_Ioi _ hb).mono_set Ioc_subset_Ioi_self
+
+lemma exponentialPdf_eval_pos {r : ℝ} : ∀ᵐ x : ℝ ∂ volume , x < 0 →
+    exponentialPdf r x = 0 := by
+  simp only [exponentialPdf_eq]
+  exact ae_of_all _ (fun x hx ↦ by simp [not_le.mpr hx])
+
+lemma exponentialPdf_eval_neg {r : ℝ} : ∀ᵐ x : ℝ ∂ volume, (x ∈ {x | 0 ≤ x} →
+    exponentialPdf r x =
+    ENNReal.ofReal (r * rexp (-(r * x)))) := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:122]: A better way to split lines:
```suggestion
lemma exponentialPdf_eval_neg {r : ℝ} :
    ∀ᵐ x : ℝ ∂volume, (x ∈ {x | 0 ≤ x} →
      exponentialPdf r x = ENNReal.ofReal (r * rexp (-(r * x)))) := by
```

But the main issue with that lemma is that it should not be about almost everywhere equality, but about equality. You should introduce this:
```lean
lemma exponentialPdf_of_nonneg {r x : ℝ} (hx : 0 ≤ x) :
    exponentialPdf r x = ENNReal.ofReal (r * rexp (-(r * x))) := by
  rw [exponentialPdf_eq, if_pos hx]
```
(to be placed next to `exponentialPdf_eq`)
Then you don't even need the current form because it's an immediate combination of that and `ae_of_all`.

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 24]
```diff
@@ -0,0 +1,251 @@
...
+  simp only [exponentialPdf_eq]
+  exact ae_of_all _ (fun x (hx : 0 ≤ x) ↦ by rw [if_pos hx])
+
+lemma antiDeriv_tendsto_zero {r : ℝ} (hr : 0 < r) :
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:126]: Pleast change the name to something starting with `tendsto-...` and mentioning exp. Also it shoud be placed in another file because it's a general result about exp and not specific to the construction of the exponential distribution. Perhaps put it close to the lemmas you use in the proof, like `tendsto_exp_neg_atTop_nhds_0`?

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 25]
```diff
@@ -0,0 +1,251 @@
...
+  rw [← mul_zero (-1/r)]
+  apply Tendsto.mul
+  · exact tendsto_const_nhds
+  · apply tendsto_exp_neg_atTop_nhds_0.comp
+    exact (tendsto_const_mul_atTop_of_pos hr).2 tendsto_id
+
+open Measure
+
+lemma lintegral_exponentialPdfReal_eq_one (r : ℝ) (hr : 0 < r) :
+    ∫⁻ x, exponentialPdf r x = 1 := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:137]: This is about exponentialPdf, not exponentialPdfreal
```suggestion
lemma lintegral_exponentialPdf_eq_one (r : ℝ) (hr : 0 < r) :
    ∫⁻ x, exponentialPdf r x = 1 := by
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 26]
```diff
@@ -0,0 +1,251 @@
...
+        integral_Ioi_of_hasDerivAt_of_tendsto' (fun _ _ ↦ antiDeriv_expDeriv_pos' hr) IntegrOn
+        (antiDeriv_tendsto_zero hr)]
+    field_simp
+  · exact ((measurable_id'.const_mul r).neg.exp.const_mul r).stronglyMeasurable.aestronglyMeasurable
+
+/-- The Pdf of the exponential Distribution integrates to 1-/
+@[simp]
+lemma lintegral_exponentialPdf_eq_one (r : ℝ) (hr : 0 < r) :
+    ∫⁻ x, exponentialPdf r x = 1 :=
+  lintegral_exponentialPdfReal_eq_one r hr
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:161]: This is just a copy of the lemma above?
```suggestion
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 27]
```diff
@@ -0,0 +1,251 @@
...
+
+section ExponentialCdf
+
+/-- CDF of the exponential Distribution -/
+noncomputable
+def exponentialCdfReal (r : ℝ) : StieltjesFunction :=
+    cdf (expMeasure r)
+
+lemma expCdf_eq_integral (r : ℝ) [Fact (0 < r)] : exponentialCdfReal r
+    = fun x ↦ ∫ x in Iic x, exponentialPdfReal r x := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:184]: The name of the object is exponentialCdfReal, not expCdf. Also it's better to add an argument that to write an equality of functions:
```suggestion
lemma exponentialCdfReal_eq_integral (r : ℝ) [Fact (0 < r)] (x : ℝ) :
    exponentialCdfReal r x = ∫ x in Iic x, exponentialPdfReal r x := by
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 28]
```diff
@@ -0,0 +1,251 @@
...
+  ext x
+  rw [exponentialCdfReal,cdf_eq_toReal]
+  simp only [expMeasure, measurableSet_Iic, withDensity_apply]
+  rw [integral_eq_lintegral_of_nonneg_ae]; exact rfl
+  · exact ae_of_all _ fun a ↦ by simp [Pi.zero_apply, exponentialPdfReal_nonneg Fact.out a]
+  · exact (Measurable.aestronglyMeasurable (measurable_exponentialPdfReal r)).restrict
+
+lemma expCdf_eq_lintegral (r : ℝ) [Fact (0 < r)] : exponentialCdfReal r =
+    fun x ↦ ENNReal.toReal (∫⁻ x in Iic x, exponentialPdf r x) := by
+  ext x
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:194]:
```suggestion
lemma exponentialCdf_eq_lintegral (r x : ℝ) [Fact (0 < r)] :
    exponentialCdfReal r x = ENNReal.toReal (∫⁻ x in Iic x, exponentialPdf r x) := by
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 29]
```diff
@@ -0,0 +1,251 @@
...
+      exact exp_neg_integrableOn_Ioc hr
+    · refine ne_of_lt (IntegrableOn.set_lintegral_lt_top ?_)
+      rw [integrableOn_Icc_iff_integrableOn_Ioc]
+      apply Integrable.const_mul (exp_neg_integrableOn_Ioc hr)
+
+/-- The Definition of the CDF equals the known Formular ``1 - exp (-(r * x))``-/
+lemma exponentialCdf_eq {r : ℝ} [Fact (0 < r)] : exponentialCdfReal r =
+    fun x ↦ if 0 ≤ x then 1 - exp (-(r * x)) else 0 := by
+  rw[expCdf_eq_lintegral]; ext x; rw [lint_eq_antiDeriv _ Fact.out]
+  rw[ENNReal.toReal_ofReal_eq_iff]
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:247]:
```suggestion
/-- The Definition of the CDF equals the known Formular `1 - exp (-(r * x))`. -/
lemma exponentialCdfReal_eq {r : ℝ} [Fact (0 < r)] (x : ℝ) :
    exponentialCdfReal r x = if 0 ≤ x then 1 - exp (-(r * x)) else 0 := by
  rw [exponentialCdf_eq_lintegral, lint_eq_antiDeriv _ Fact.out, ENNReal.toReal_ofReal_eq_iff]
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 30]
```diff
@@ -0,0 +1,251 @@
...
+  split_ifs with h <;> simp [mul_nonneg (le_of_lt Fact.out) _]
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:248]: This `simp` does not close all goals, which make it a non-terminal simp. Those are bad, because what simp does depends on which lemmas are tagged simp in the whole library. It might be that in the future, that simp suddenly simplifies to something slightly different and then the next line won't work, and it will be difficult to reconstruct what it should have simplified to.
That's why we should replace all non-terminal simp by `simp only` (use `simp?` and replace with the suggestion).

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 31]
```diff
@@ -0,0 +1,251 @@
...
+        (eventually_of_forall fun _ ↦ le_of_lt (mul_pos hr (exp_pos _)))]
+    have : ∫ a in uIoc 0 x', r * rexp (-(r * a)) = ∫ a in (0)..x', r * rexp (-(r * a)) := by
+      rw [intervalIntegral.intervalIntegral_eq_integral_uIoc, smul_eq_mul, if_pos h, one_mul]
+    rw [integral_Icc_eq_integral_Ioc, ← uIoc_of_le h, this]
+    rw [intervalIntegral.integral_eq_sub_of_hasDeriv_right_of_le h
+      (f := fun a ↦ -1 * rexp (-(r * a))) _ _]
+    rw [ENNReal.toReal_ofReal_eq_iff.2 (by norm_num; positivity)]
+    · norm_num; ring
+    · simp only [intervalIntegrable_iff, uIoc_of_le h]
+      apply Integrable.const_mul (exp_neg_integrableOn_Ioc hr)
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:231]: When `apply` closes a goal, it's better for readability of the proof to use `exact` instead:
```suggestion
      exact Integrable.const_mul (exp_neg_integrableOn_Ioc hr) _
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 32]
```diff
@@ -0,0 +1,251 @@
...
+    · have : Continuous (fun a ↦ rexp (-(r * a))) := by
+        simp only [← neg_mul]; exact  (continuous_mul_left (-r)).exp
+      exact Continuous.continuousOn (Continuous.comp' (continuous_mul_left (-1)) this)
+    · exact fun _ _ ↦ HasDerivAt.hasDerivWithinAt antiDeriv_expDeriv_pos
+    · apply Integrable.aestronglyMeasurable (Integrable.const_mul _ _)
+      rw [← integrableOn_def, integrableOn_Icc_iff_integrableOn_Ioc]
+      exact exp_neg_integrableOn_Ioc hr
+    · refine ne_of_lt (IntegrableOn.set_lintegral_lt_top ?_)
+      rw [integrableOn_Icc_iff_integrableOn_Ioc]
+      apply Integrable.const_mul (exp_neg_integrableOn_Ioc hr)
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:241]:
```suggestion
      exact Integrable.const_mul (exp_neg_integrableOn_Ioc hr) _
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 33]
```diff
@@ -0,0 +1,251 @@
...
+    fun x ↦ ENNReal.toReal (∫⁻ x in Iic x, exponentialPdf r x) := by
+  ext x
+  simp only [exponentialPdf, exponentialCdfReal, cdf_eq_toReal]
+  simp only [expMeasure, measurableSet_Iic, withDensity_apply]
+  rfl
+
+open Topology
+
+lemma antiDeriv_expDeriv_pos {r x : ℝ} :
+    HasDerivAt (fun a ↦ -1 * exp (-(r * a))) (r * exp (-(r * x))) x := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:202]: Rename. `hasDerivAr_neg_exp_mul_exp`?
Also why is there a `-1 * exp` in the statement? This should just be `- exp`

**Review by RemyDegenne — COMMENTED** [review]
Thanks for the updates! I am very sorry that it took me so long to come back to this PR. Here are more comments (which should almost be the last), this time mostly about how we name lemmas. A useful reference for that is https://leanprover-community.github.io/contribute/naming.html

File: Mathlib/Probability/Distributions/Exponential.lean (hunk 24 above)
Comment (ClausenCl) [reply Mathlib/Probability/Distributions/Exponential.lean]: I decided to delete the lemma as I only used it once and feel like a tendsto of the derivative of a special case of the neg exponential is to specific for exp.lean. Let me know if you disagree, then I would transfer it there

File: Mathlib/Probability/Distributions/Exponential.lean (hunk 23 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Distributions/Exponential.lean]: The remark in that comment about removing the lemma in favor of a lemma about equality instead of a.e. equality still stands.

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 34]
```diff
@@ -0,0 +1,236 @@
...
+    IntegrableOn (fun x ↦ rexp (-(b * x))) (Ioc 0 x) := by
+  simp only [neg_mul_eq_neg_mul]
+  exact (exp_neg_integrableOn_Ioi _ hb).mono_set Ioc_subset_Ioi_self
+
+lemma exponentialPdf_eval_pos {r : ℝ} : ∀ᵐ x : ℝ ∂volume, x < 0 →
+    exponentialPdf r x = 0 := by
+  simp only [exponentialPdf_eq]
+  exact ae_of_all _ (fun x hx ↦ by simp [not_le.mpr hx])
+
+lemma exponentialPdf_eval_neg {r x : ℝ} (hx : 0 ≤ x) :
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:118]:
```suggestion
lemma exponentialPdf_of_nonneg {r x : ℝ} (hx : 0 ≤ x) :
```
Also please put that lemma next to `exponentialPdf_eq`

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 35]
```diff
@@ -0,0 +1,236 @@
...
+/-- A negative exponential function is integrable on Intervals in R≥0 -/
+lemma exp_neg_integrableOn_Ioc {b x : ℝ} (hb : 0 < b) :
+    IntegrableOn (fun x ↦ rexp (-(b * x))) (Ioc 0 x) := by
+  simp only [neg_mul_eq_neg_mul]
+  exact (exp_neg_integrableOn_Ioi _ hb).mono_set Ioc_subset_Ioi_self
+
+lemma exponentialPdf_eval_pos {r : ℝ} : ∀ᵐ x : ℝ ∂volume, x < 0 →
+    exponentialPdf r x = 0 := by
+  simp only [exponentialPdf_eq]
+  exact ae_of_all _ (fun x hx ↦ by simp [not_le.mpr hx])
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:116]: Same as for the other one, let's replace a.e. equality with the stronger equality:
```suggestion
lemma exponentialPdf_of_neg {r x : ℝ} (hx : x < 0) :
    exponentialPdf r x = 0 := by
  simp only [exponentialPdf_eq, if_neg (not_le.mpr hx)]
```
(proof untested)
And please move it next to `exponentialPdf_eq`.

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 36]
```diff
@@ -0,0 +1,236 @@
...
+    · apply Integrable.aestronglyMeasurable (Integrable.const_mul _ _)
+      rw [← integrableOn_def, integrableOn_Icc_iff_integrableOn_Ioc]
+      exact exp_neg_integrableOn_Ioc hr
+    · refine ne_of_lt (IntegrableOn.set_lintegral_lt_top ?_)
+      rw [integrableOn_Icc_iff_integrableOn_Ioc]
+      exact Integrable.const_mul (exp_neg_integrableOn_Ioc hr) _
+
+/-- The Definition of the CDF equals the known Formular ``1 - exp (-(r * x))``-/
+lemma exponentialCdfReal_eq {r : ℝ} [Fact (0 < r)] (x : ℝ) : exponentialCdfReal r x =
+    if 0 ≤ x then 1 - exp (-(r * x)) else 0 := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:228]:
```suggestion
lemma exponentialCdfReal_eq {r : ℝ} [Fact (0 < r)] (x : ℝ) :
    exponentialCdfReal r x = if 0 ≤ x then 1 - exp (-(r * x)) else 0 := by
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 37]
```diff
@@ -0,0 +1,236 @@
...
+
+lemma hasDerivAt_neg_exp_mul_exp {r x : ℝ} :
+    HasDerivAt (fun a ↦ -exp (-(r * a))) (r * exp (-(r * x))) x := by
+  convert (((hasDerivAt_id x).const_mul (-r)).exp.const_mul (-1)) using 1
+  · simp only [one_mul, id_eq, neg_mul]
+  simp only [id_eq, neg_mul, mul_one, mul_neg, one_mul, neg_neg, mul_comm]
+
+lemma lintegral_exponentialPdf_eq_antiDeriv (r x : ℝ) (hr : 0 < r) :
+    (∫⁻ y in Iic x, exponentialPdf r y =
+    ENNReal.ofReal (if 0 ≤ x then 1 - exp (-(r * x)) else 0)) := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:191]:
```suggestion
    ∫⁻ y in Iic x, exponentialPdf r y
      = ENNReal.ofReal (if 0 ≤ x then 1 - exp (-(r * x)) else 0) := by
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 38]
```diff
@@ -0,0 +1,236 @@
...
+lemma exponentialCdfReal_eq_lintegral (r x : ℝ) [Fact (0 < r)] :
+    exponentialCdfReal r x = ENNReal.toReal (∫⁻ x in Iic x, exponentialPdf r x) := by
+  simp only [exponentialPdf, exponentialCdfReal, cdf_eq_toReal]
+  simp only [expMeasure, measurableSet_Iic, withDensity_apply]
+  rfl
+
+open Topology
+
+lemma hasDerivAt_neg_exp_mul_exp {r x : ℝ} :
+    HasDerivAt (fun a ↦ -exp (-(r * a))) (r * exp (-(r * x))) x := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:184]: Can you move this next to `hasDerivAt_exp_neg`?

**Comment by RemyDegenne** [comment]
My comments above are the last round. I think this PR now looks good and is almost ready to be merged.
Thanks for the contribution and for implementing all these changes!

**Review by RemyDegenne — APPROVED** [review]
Thanks! There is just one last remark. Once you have resolved it and the PR builds, you can merge yourself by writing `bors r+`
bors d+
